US09428508B2
To a solution of N-cyclobutyl-2-nitrobenzenesulfonamide (7 g, 27.3 mmol) in methanol (100 mL) was added palladium on carbon (10%). The mixture was stirred under an atmosphere of hydrogen for 12 hours. The catalyst was removed by filtration and the filtrate was evaporated to afford the product 2-amino-N-cyclobutylbenzenesulfonamide (6 g, yield 97.1%). 1H NMR (400 MHz, CDCl3) δ ppm 7.68-7.71 (dd, 1H, J=1.6 Hz, 8.0 Hz), 7.27-7.33 (m, 1H), 6.74-6.82 (m, 2H), 5.30 (s, 1H), 5.08 (s, 2H), 3.70-3.73 (m, 1H), 1.96-2.04 (m, 2H), 1.67-1.75 (m, 2H), 1.48-1.62 (m, 2H).

reactant | N-cyclobutyl-2-nitrobenzenesulfonamide | 27.3 mmol, 7 g | C1(CCC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H12N2O4S
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-amino-N-cyclobutylbenzenesulfonamide | 6 g, yield 97.1% | NC1=C(C=CC=C1)S(=O)(=O)NC1CCC1 | C10H14N2O2S
